US05962682
135 mg of methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate were dissolved in pyridine (3 ml), treated while cooling with ice with a solution of 111 mg of 4-methoxy-benzenesulphonyl chloride in toluene (1 ml) and subsequently stirred at RT for 20 hours. The reaction mixture was poured on to ice/3M HCl, the product was extracted with ethyl acetate and the organic phase was washed with water and dried over magnesium sulphate. After removing the solvent there was obtained methyl 4-(2-chloro-5-methoxy-phenoxy)-3-(4-methoxy-benzenesulphonylamino)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate as a foam.

reactant | methyl 3-amino-4-(2-chloro-5-methoxy-phenoxy)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | 135 mg | NC=1C=C(C(=O)OC)C=C(C1OC1=C(C=CC(=C1)OC)Cl)OCCOC1OCCCC1 | C22H26ClNO7
reactant | 4-methoxy-benzenesulphonyl chloride | 111 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-(2-chloro-5-methoxy-phenoxy)-3-(4-methoxy-benzenesulphonylamino)-5-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-benzoate | ClC1=C(OC2=C(C=C(C(=O)OC)C=C2OCCOC2OCCCC2)NS(=O)(=O)C2=CC=C(C=C2)OC)C=C(C=C1)OC | C29H32ClNO10S
